US07332485B2
Dimethyl Cyclopentane-1,1-Dicarboxylate
A solution of methyl cyclopentanecarboxylic acid (7.1 g, 38.16 mmol) in THF (14 mL) was added dropwise to a solution of lithium diisopropylamine (6.62 g, 61.2 mmol) in THF (55 mL) at −78° C. After stirring for 1 h at the same temperature, a solution of methylchloroformate (5.78 g, 61.2 mmol) in THF (14 mL) was added slowly and the mixture was allowed to warm to room temperature. After 18 h the reaction mixture was quenched with saturated aqueous NH4Cl solution (100 mL). THF was removed in vacuo and the aqueous residue was extracted with dichloromethane (100 mL×3). The combined organic layers were dried (MgSO4). After removal of the solvent under reduced pressure, purification by flash column chromatography using an eluting system of hexane/EtOAc (95:5) yielded the title compound as a clear colorless liquid (7.1 g, 93%). MH+187.

reactant | methyl cyclopentanecarboxylic acid | 38.16 mmol, 7.1 g | CC1(CCCC1)C(=O)O | C7H12O2
reactant | lithium diisopropylamine | 61.2 mmol, 6.62 g | C(C)(C)NC(C)C.[Li]
reactant | methylchloroformate | 61.2 mmol, 5.78 g | COC(=O)Cl | C2H3ClO2
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | Dimethyl Cyclopentane-1,1-Dicarboxylate | 7.1 g, 93% | C1(CCCC1)(C(=O)OC)C(=O)OC | C9H14O4
